US05472978
3,5-Dimethylbenzyl 2-ureido-3-(3-indolyl)propionate
Following the method of Example 16, 3,5-dimethylbenzyl 2-amino-3-(3-indolyl)propionate hydrochloride and trimethylsilyl isocyanate gave the title compound after recrystallisation from ethyl acetate/petroleum ether, m.p. 154°-156° C. (dec.). 1H NMR (360 MHz, CDCl3) δ7.99 (1H, s), 7.52 (1H, d, J=8 Hz), 7.30 (1H, d, J=8 Hz), 7.16 (1H, t. J=8 Hz), 7.08 (1H, t, J=8 Hz), 6.97 (1H, s), 6.88 (2H, s), 6.77 (1H, s), 5.21 (1H, d, J=8 Hz), 5.01 (2H, s), 4.85 (1H, m), 4.34 (2H, s), 3.28 (2H, J=5 Hz), 2.30 (6H, s).

reactant | 3,5-dimethylbenzyl 2-amino-3-(3-indolyl)propionate hydrochloride | Cl.NC(C(=O)OCC1=CC(=CC(=C1)C)C)CC1=CNC2=CC=CC=C12
reactant | trimethylsilyl isocyanate | C[Si](C)(C)N=C=O | C4H9NOSi
product | 3,5-Dimethylbenzyl 2-ureido-3-(3-indolyl)propionate | N(C(=O)N)C(C(=O)OCC1=CC(=CC(=C1)C)C)CC1=CNC2=CC=CC=C12 | C21H23N3O3
